US04935430
Cuprous cyanide (8.323 g, 93 mmol) was added to a mixture of 1-(4-iodophenyl)-2-methylbenzimidazole (5.184 g, 15.5 mmol) and palladium (II) acetate (170 mg) in N,N'-dimethyl-1,4,5,6-tetrahydro-2-pyrimidone (15 ml) and the resulting solution was heated under nitrogen at 100° C. for 15 hours. The mixture was cooled, poured into saturated aqueous ammonia (150 ml) and shaken to dissolve the copper salts. The mixture was extracted with ether (3×150 ml), and the combined extracts were washed consecutively with water (3×150 ml), brine (150 ml), and then dried (MgSO4) and concentrated under reduced pressure to give 1-(4-cyanophenyl)-2-methylbenzimidazole, 941 mg, as a white solid.

reactant | 1-(4-iodophenyl)-2-methylbenzimidazole | 15.5 mmol, 5.184 g | IC1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C | C14H11IN2
reactant | ammonia | 150 ml | N | H3N
reactant | N,N'-dimethyl-1,4,5,6-tetrahydro-2-pyrimidone | 15 ml | CN1C(N(CCC1)C)=O | C6H12N2O
catalyst | palladium (II) acetate | 170 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper | [Cu] | Cu
product | 1-(4-cyanophenyl)-2-methylbenzimidazole | C(#N)C1=CC=C(C=C1)N1C(=NC2=C1C=CC=C2)C | C15H11N3
